US05599984
4-Aminoacetophenone (1.35 g) in toluene (20 mL) was treated with trichloromethyl chloroformate (1.2 mL). The mixture was heated at reflux for 2 hr. 3,5-diacetylaniline (1.77 g) was added and the mixture was heated at reflux for 1 hr then allowed to stand 16 hr at room temp. The product was filtered off and washed with ethanol and dried to give 0.93 g of N-(4-acetylphenyl)-N'-(3,5-diacetylphenyl)urea, mp 251°-2° C.

reactant | 4-Aminoacetophenone | 1.35 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | trichloromethyl chloroformate | 1.2 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3,5-diacetylaniline | 1.77 g | C(C)(=O)C=1C=C(N)C=C(C1)C(C)=O | C10H11NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-acetylphenyl)-N'-(3,5-diacetylphenyl)urea | 0.93 g | C(C)(=O)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O | C19H18N2O4
